US08754207B2
Preparation of 2,2-diethoxy-1,7,7-trimethyl bicyclo-[2.2.1]heptane
To a flask with reflux condenser, (25 g) camphor and 50 ml absolute ethanol was taken. (36.45 g) (1.5 eq.) triethyl orthoformate and crystals of p-toluenesulfonic acid was added into the reaction mixture. The reaction mixture was heated to reflux overnight. The reaction mixture was cooled and concentrated on rotavapour and was washed with 10% potassium hydroxide solution. Extract it with dichloromethane and concentrated the organic layer on rotavapour, yellow colored liquid product was obtained. 38. g (Quantitative)

reactant | camphor | 25 g | C12(C(=O)CC(CC1)C2(C)C)C | C10H16O
reactant | triethyl orthoformate | 36.45 g, 1.5 eq. | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,2-diethoxy-1,7,7-trimethyl bicyclo-[2.2.1]heptane | C(C)OC1(C2(CCC(C1)C2(C)C)C)OCC | C14H26O2
